US04018824
A mixture of 11 parts of hydroquinone, 6.5 parts of 1-(tert.-butyl)-3-azetidinol and 0.3 part of potassium hydroxide was heated under nitrogen gas at 140° C. for 8 hours with agitation. The reaction mixture was cooled and dissolved into 50 parts of 4N-hydrochloric acid aqueous solution. The resulting solution was washed with 50 parts of chloroform. The water layer was acidified with concentrated hydrochloric acid, evaporated and solidified. The residue was dissolved in isopropyl alcohol and filtered. The filtrate was decolored with active carbon and allowed to cool. As a result 6.9 parts of 1-(p-hydroxyphenoxy)-3-(tert.-butylamino)-2-propanol hydrochloride melting at 201° - 203° C were obtained. The yield was 58%. The results of infra-red spectrum analysis and nuclear magnetic resonance analysis of the resulting hydrochloride are as follows:

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1-(tert.-butyl)-3-azetidinol | C(C)(C)(C)N1CC(C1)O | C7H15NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(p-hydroxyphenoxy)-3-(tert.-butylamino)-2-propanol hydrochloride | yield was 58% | Cl.OC1=CC=C(OCC(CNC(C)(C)C)O)C=C1 | InChI=1S/C13H21NO3.ClH/c1-13(2,3)14-8-11(16)9-17-12-6-4-10(15)5-7-12;/h4-7,11,14-16H,8-9H2,1-3H3;1H
